US09382188B2
H) 5-(benzyloxy)-2-(2-fluoro-5-methoxyphenyl)-3-neopentylpyridine
Under an argon atmosphere, to a solution of 5-(benzyloxy)-3-neopentylpyridin-2-yl trifluoromethanesulfonate (3.35 g) in toluene (25 mL) were added (2-fluoro-5-methoxyphenyl)boronic acid (2.12 g), tetrakis(triphenylphosphine)palladium (0) (961 mg) and 2.0 M aqueous sodium carbonate solution (12.5 mL), and the mixture was stirred at 90° C. for 3 hr. Water was added at room temperature, and the mixture was filtered through celite. The filtrate was extracted with ethyl acetate, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.95 g) as a pale-yellow oil.

reactant | 5-(benzyloxy)-3-neopentylpyridin-2-yl trifluoromethanesulfonate | 3.35 g | FC(S(=O)(=O)OC1=NC=C(C=C1CC(C)(C)C)OCC1=CC=CC=C1)(F)F | C18H20F3NO4S
reactant | (2-fluoro-5-methoxyphenyl)boronic acid | 2.12 g | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 2.0 M, 12.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 961 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(benzyloxy)-2-(2-fluoro-5-methoxyphenyl)-3-neopentylpyridine | 2.95 g | C(C1=CC=CC=C1)OC=1C=C(C(=NC1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C24H26FNO2
